US07709511B2
a) 3,3-Diethoxy-N-phenethyl-propan-1-amine
3,3-Diethoxypropan-1-amine (0.20 g) dissolved in ethanol (10 mL) was treated with 2-phenylacetaldehyde (0.163 g) and acetic acid (0.02 mL). The resulting mixture was stirred at room temperature for 15 minutes and treated with sodium cyanoborohydride (0.051 g). After 14 hours the mixture was concentrated, taken up in ethyl acetate (30 mL) washed with saturated sodium bicarbonate (20 mL), brine (20 mL), dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure to give a crude sample of the sub-titled compound (0.33 g).

reactant | 3,3-Diethoxypropan-1-amine | 0.20 g | C(C)OC(CCN)OCC | C7H17NO2
reactant | 2-phenylacetaldehyde | 0.163 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | acetic acid | 0.02 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.051 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3,3-Diethoxy-N-phenethyl-propan-1-amine | 0.33 g | C(C)OC(CCNCCC1=CC=CC=C1)OCC | C15H25NO2
